US06342498B1
To a stirred solution of 1-(2-methoxyphenyl)-4-[(2-phthalimido)-ethyl] piperazine (23.4 mmol) in 160 mL of ethanol were added hydrazine hydrate (31 mL) and water (40 mL) The mixture was stirred at room temperature for 18 hours. The volatiles were evaporated. The residue was partitioned between ethyl acetate and saturated potassium carbonate solution. The organic layer was washed with brine and water, dried over magnesium sulfate, filtered and concentrated to give 4-[(2-amino)ethyl]-1-(2-methoxyphenyl)piperazine (5.45 g, 99%).

reactant | 1-(2-methoxyphenyl)-4-[(2-phthalimido)-ethyl] piperazine | 23.4 mmol | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H23N3O3
reactant | hydrazine hydrate | 31 mL | O.NN
reactant | water | 40 mL | O | H2O
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | 4-[(2-amino)ethyl]-1-(2-methoxyphenyl)piperazine | 5.45 g, 99% | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
